### PR TITLE
feat(Cosmology): Milne solution and Einstein static universe relations

### PR DESCRIPTION
**Pull request by KevorkianPhilippe**
## AI disclosure

**AI disclosure.** This PR was generated with Claude Fable 5.1 (Claude Code) under my
supervision, following `AI-POLICY.md` and `AGENTS.md`. I have read every definition and lemma
statement and vouch that they state what the docstrings say. The statements were fixed before
the proofs were written and checked symbolically (sympy) against the Friedmann equations of
`Physlib.Cosmology.FLRW.Basic`; no textbook is cited, the TODO items of the file are the
specification.

**Stacked on #1633** (`flrw-solutions-2`): the diff includes the earlier commit(s); only the last commit is new here.

Partially resolves the last two TODOs; what remains open is said in the narrowed TODOs.

Declarations added:
- `milneScaleFactor`: `a(t) = c t`; `deriv_milneScaleFactor`, `deriv_deriv_milneScaleFactor`;
  `milneScaleFactor_firstOrderFriedmann` (`ρ = 0`, `k = -1`, `Λ = 0`, `t > 0`),
  `milneScaleFactor_secondOrderFriedmann`, `decelerationParameter_milneScaleFactor` (`q = 0`).
  NOT included: the vanishing of the curvature (Minkowski in expanding coordinates): the FLRW
  metric is not an object of Physlib yet. The TODO is kept, narrowed.
- `cosmologicalConstantDensity`: `ρ_Λ = Λ c² / (8 π G)`.
- `einsteinStatic_density`: if `∂ₜ ∂ₜ a = 0` and the second-order equation holds with `p = 0`,
  then `ρ = 2 ρ_Λ`; `einsteinStatic_curvature`: with also `∂ₜ a = 0` and the first-order
  equation, `k c² / a² = 4 π G ρ`; `einsteinStatic_curvature_pos`: `k > 0` when `ρ > 0`.
  NOT included: the instability of the equilibrium (no perturbation theory of the Friedmann
  equations yet). The TODO is kept, narrowed.

Reviewer map: D (Milne, short), then E (`cosmologicalConstantDensity` and the three lemmas).

**Update (Sept 11).** Applied the review remarks of #1642 across the series: no isolated general-purpose lemma (the one-off `HasDerivAt` and `rpow` helpers are inlined in the proofs that used them), and the three small bridges between `Time.deriv` and Mathlib's `HasDerivAt` now live next to the definition of the time derivative, in `Physlib/SpaceAndTime/Time/Derivatives.lean` (`deriv_comp_val`, `deriv_eq_of_hasDerivAt`, `hasDerivAt_mk_of_differentiableAt`, each introduced by the first PR of the series that needs it). Section letters shifted accordingly.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 1]
```diff
@@ -79,28 +92,33 @@ lemma deriv_comp_val {γ : ℝ → ℝ} {t : Time} {v : ℝ} (h : HasDerivAt γ
 noncomputable def deSitterScaleFactor (a₀ σ Λ c : ℝ) : Time → ℝ :=
   fun t => a₀ * Real.exp (σ * √(Λ / 3) * c * t.val)
 
-/-- Mathlib derivative of `y ↦ a₀ exp (K y)`. -/
-lemma hasDerivAt_mul_exp_mul (a₀ K x : ℝ) :
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean:83]: same here, see my other comment in another PR

**Review by doxtor6 — COMMENTED** [review]
General remark, then per-`def` comments inline.

`def`s are the load-bearing part of the library: they are what downstream files refer to by name, so we only add them for objects that deserve a name, and those need to be high quality. This series adds 9 `def`s to this file; I think 4 should stay (the four named scale factors) and the rest should be inlined into the theorem statements. The two `_eq` glue lemmas (`radiationDensity_eq`, `einsteinDeSitterDensity_eq`) are the symptom: they exist only to undo defs.

For the defs that stay, two points on quality: `t.val = 0` hard-codes the singularity at the origin of the chart, whereas `Time` is an `AddTorsor ℝ Time` with no distinguished origin; and `t₀` is a time, so it should be `t₀ : Time` rather than `ℝ` (the `⟨t₀⟩` in `hubbleConstant_radiationScaleFactor_t₀` is the tell).

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 2]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+-/
+
+/-!
+
+### B.1. The power-law scale factor and its derivatives
+
+-/
+
+/-- The power-law scale factor `a(t) = (t / t₀) ^ n` (real power). -/
+noncomputable def powerLawScaleFactor (t₀ n : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: Is this def necessary? It is proof-sharing scaffolding rather than a named solution. The general-`n` lemmas below work just as well quantified over `n` with `fun t => (t.val / t₀) ^ n` inline in the statement, and then `radiationScaleFactor` / `einsteinDeSitterScaleFactor` can be defined directly instead of as aliases that have to be unfolded.

If a power-law def survives anyway: `t.val` puts the Big Bang at the origin of the chart (`Time` is an `AddTorsor ℝ Time`, no distinguished origin), `t₀` should be a `Time`, and the docstring should say that `t₀` is the normalisation epoch (`a(t₀) = 1`) and that values for `t ≤ 0` are junk (`Real.rpow` on a negative base).

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 3]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+  rw [deriv_deriv_powerLawScaleFactor ht₀.ne' n ht, deriv_powerLawScaleFactor ht₀.ne' n ht.ne',
+    powerLawScaleFactor, Real.rpow_sub_one (div_pos ht ht₀).ne',
+    Real.rpow_sub_one (div_pos ht ht₀).ne']
+  have hx : (t.val / t₀) ^ n ≠ 0 := (Real.rpow_pos_of_pos (div_pos ht ht₀) n).ne'
+  field_simp
+  ring
+
+/-- The density imposed on the flat power-law solution by the first-order Friedmann equation,
+  `ρ = 3 n² / (8 π G t²)`. -/
+noncomputable def powerLawDensity (G n : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: Same question. This only ever appears as an argument to its own lemmas. The density is forced by the scale factor, so the reader is better served by seeing `fun t => 3 * n ^ 2 / (8 * π * G * t.val ^ 2)` in the theorem statement than by chasing a name.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 4]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+  ring
+
+/-!
+
+### B.3. The radiation-dominated solution
+
+-/
+
+/-- The radiation-dominated scale factor `a(t) = (t / t₀) ^ (1/2)`. -/
+noncomputable def radiationScaleFactor (t₀ : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: Keep this one (it is the named solution the TODO asks for), but define it directly as `fun t => (t.val / t₀) ^ (1 / 2 : ℝ)` rather than as an alias of `powerLawScaleFactor`. Same remarks on `t₀ : Time` and the origin of `t.val`.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 5]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+  powerLawScaleFactor t₀ (1 / 2)
+
+/-- The density of the flat radiation-dominated solution, `ρ = 3 / (32 π G t²)`, imposed by
+  the first-order Friedmann equation. -/
+noncomputable def radiationDensity (G : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: Not an independent object: the density is forced by the scale factor. Please put the formula in the statement of `radiationScaleFactor_firstOrderFriedmann` and drop this def; `radiationDensity_eq` then goes with it.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 6]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+  fun t => 3 / (32 * π * G * t.val ^ 2)
+
+/-- The radiation pressure `p = ρ c² / 3`. -/
+noncomputable def radiationPressure (G c : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: Same: inline `fun t => ρ t * c ^ 2 / 3` in the second-order statement.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 7]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+  ring
+
+/-!
+
+### B.4. The Einstein-de Sitter solution
+
+-/
+
+/-- The Einstein-de Sitter (flat, dust) scale factor `a(t) = (t / t₀) ^ (2/3)`. -/
+noncomputable def einsteinDeSitterScaleFactor (t₀ : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: As for `radiationScaleFactor`: keep, but define directly as `fun t => (t.val / t₀) ^ (2 / 3 : ℝ)`, with `t₀ : Time`.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 8]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+  powerLawScaleFactor t₀ (2 / 3)
+
+/-- The dust density of the Einstein-de Sitter solution, `ρ = 1 / (6 π G t²)`, imposed by the
+  first-order Friedmann equation. -/
+noncomputable def einsteinDeSitterDensity (G : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: As for `radiationDensity`: inline in the theorem statement and drop, together with `einsteinDeSitterDensity_eq`.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 9]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+## C. The Milne solution
+
+The Milne universe is the empty (`ρ = 0`, `p = 0`, `Λ = 0`) solution with `k = -1` and
+`a(t) = c t` for `t > 0`. That it is Minkowski space in expanding coordinates (vanishing
+curvature) is not stated here: the FLRW metric is not yet an object of Physlib.
+
+-/
+
+/-- The Milne scale factor `a(t) = c t`. -/
+noncomputable def milneScaleFactor (c : ℝ) : Time → ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean:439]: Fine to keep as a named model (the curvature TODO still points at it). Same origin remark: `c * t.val` puts the Bang at `t.val = 0` of the chart.

File: Physlib/Cosmology/FLRW/Solutions.lean [hunk 10]
```diff
@@ -178,21 +196,346 @@ lemma decelerationParameter_deSitterScaleFactor {a₀ σ Λ c : ℝ} (hΛ : 0 <
...
+force the density `ρ = Λ c² / (4 π G)`, twice the density `ρ_Λ = Λ c² / (8 π G)` associated
+with the cosmological constant, and `k c² / a² = 4 π G ρ`, hence a positive curvature
+parameter when `ρ > 0`. That this equilibrium is unstable is not stated here.
 
 -/
 
-TODO "Prove that the spatially flat radiation-dominated solution `a = (t/t₀)^(1/2)`
-  solves the Friedmann equations, with `q₀ = 1` and `t₀ = 1 / (2 H₀)`."
+/-- The density `ρ_Λ = Λ c² / (8 π G)` associated with the cosmological constant. -/
+noncomputable def cosmologicalConstantDensity (Λ G c : ℝ) : ℝ :=
```
Comment (doxtor6) [inline Physlib/Cosmology/FLRW/Solutions.lean]: This is a real object but the wrong home and the wrong scope: `Physlib/Cosmology/FLRW/MatterContent.lean` already has a TODO for exactly `ρ_Λ = Λ c² / (8 π G)` together with its `w = −1` content. Adding it here just to say `ρ = 2 ρ_Λ` means it will end up defined twice. Please state `ρ t = Λ * c ^ 2 / (4 * π * G)` directly and leave `ρ_Λ` to the PR that does that TODO.

**Review by doxtor6 — APPROVED** [review]
This PR is good and ready to merge

**Comment by jstoobysmith** [comment]
Merge conflict on this PR now. @KevorkianPhilippe could you sort this?

**Comment by KevorkianPhilippe** [comment]
Sorted: master merged into this PR and into the stacked #1635 to #1641. After the squash of #1633, `Solutions.lean` and `Time/Derivatives.lean` on master are identical to the reviewed `flrw-solutions-2`, so the conflict was resolved by keeping the stacked version of `Solutions.lean`; the FLRW modules build locally on the tip of the chain.
